US05534187
A mixture of (4-trifluoromethoxyphenyl)cyclohexen-4-one ethyleneketal (43.3 g, 0.144 mol), ethanol (200 ml), ethyl acetate (50 ml) and Pa-C (2 g) was stirred at room temperature for 10 hours in hydrogen atmosphere (at that time, hydrogen (3.59 l) was consumed), filtering off the catalyst from the reaction solution, distilling off the solvent under reduced pressure, to obtain 4-(4-trifluoromethoxyphenyl) cyclohexanone ethyleneketal (43.5 g) (m.p. 41.2° C.), adding thereto formic acid (250 ml), heating the mixture under reflux for 2.5 hours, feeding the reaction substance into water, extracting with a mixed solvent of toluene (400 ml) with ethyl acetate (100 ml), twice washing the resulting organic layer with water, drying over anhydrous MgSO4, filtering off anhydrous MgSO4, distilling off the solvent under reduced pressure and subjecting the resulting residue to column chromatography (silica gel, eluent: toluene), to obtain 4-(4-trifluoromethoxyphenyl)cyclohexanone (20.7 g). Yield: 47%.

reactant | (4-trifluoromethoxyphenyl)cyclohexen-4-one ethyleneketal | 0.144 mol, 43.3 g | C1COC2(CC=C(CC2)C2=CC=C(C=C2)OC(F)(F)F)O1 | C15H15F3O3
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrogen | [H][H] | H2
solvent | hydrogen | 3.59 l | [H][H] | H2
product | 4-(4-trifluoromethoxyphenyl) cyclohexanone ethyleneketal | 43.5 g | C1COC2(CCC(CC2)C2=CC=C(C=C2)OC(F)(F)F)O1 | C15H17F3O3
